US07265104B2
To a solution of 4-ethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one (Preparation 3(A) (2 g, 9.79 mmol) in DMF (40 mL) at 0° C. was added NaH (60% in oil, 431 mg, 10.8 mmol). The reaction was stirred at 0° C. for 0.5 hour and a solution of 2-bromo-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide (Preparation 1 (B) (2.95 g, 10.28 mmol) in DMF (5 mL) was added. The reaction was stirred at room temperature for 2 hours and was diluted with water, brine, and CH2Cl2. The aqueous solution was washed with CH2Cl2 (3×) and the combined organics were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. Purification by medium pressure chromatography eluting with a solvent gradient (hexanes to 70% EtOAc in hexanes) provided 2.87 g of 2-(4-ethoxy-2-oxo-2,3-dihydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide. 1H NMR (CDCl3) δ 8.14 (s) and 7.93 (s, total 1H), 7.54 (m, 1H), 7.31 (m, 1H), 7.24-7.08 (m, 3H), 6.80 (m, 1H), 5.05 (m, 1H), 4.29 (m, 2H), 4.09 (m, 1H), 3.95 (m, 3H), 3.67 (d, 1H), 3.31 (d, 1H), 3.08 (d, 1H), 1.32 (m, 3H), 1.09 (m, 6H).

reactant | 4-ethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(C)OC1=NC2=C(NC(C1)=O)C=CC=C2 | C11H12N2O2
reactant | NaH | 10.8 mmol, 431 mg | [H-].[Na+]
reactant | 2-bromo-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | BrCC(=O)N(C=1C=NC(=CC1)OC)C(C)C | C11H15BrN2O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-ethoxy-2-oxo-2,3-dihydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 2.87 g | C(C)OC1=NC2=C(N(C(C1)=O)CC(=O)N(C=1C=NC(=CC1)OC)C(C)C)C=CC=C2 | C22H26N4O4
